* Alice gain-switch laser driver — electrical drive + bias-tee + laser-diode load (H3)
* =============================================================================
* Decoy-BB84 needs short (<500 ps), phase-randomised optical pulses at the system
* rep rate (1.25 GHz Phase-1). Gain switching delivers both: a fast current pulse
* drives the DFB laser from BELOW threshold to well above it for ~100 ps, so the
* laser emits one short relaxation-oscillation spike that builds from spontaneous
* emission -> each pulse has a random optical phase (a security gift: no active
* phase randomiser needed). Between pulses the bias sits below threshold so the
* field fully decays and the next pulse is independent.
*
* This netlist is the ELECTRICAL half (the moat is the driver + the parasitics):
* a 50-ohm driver pulse, AC-coupled through a bias-tee onto a DC bias current, into
* a laser-diode load (forward junction + series R + junction C + bond-wire L). It
* produces the injection-current waveform i(Vsense); simulate.py feeds that into a
* two-rate-equation laser model to get the OPTICAL pulse (width + turn-on jitter).
*
* Run:  ngspice -b alice_driver.cir   (writes alice_driver.data for the analyser)
* =============================================================================

.param frep=1.25e9           ; system rep rate (Phase 1)
.param Trep='1/frep'         ; 0.80 ns
.param Wp=110p               ; gain-switch drive-pulse width
.param Tr=25p                ; drive edge (rise/fall) — sets how fast we cross threshold
.param Vp=3.0                ; drive amplitude into 50 ohm (V)
.param Ibias=8m              ; DC bias current, just BELOW threshold (Ith ~ 12 mA)
.param Rdrv=50               ; driver source impedance
.param Ls=0.5n               ; laser bond-wire inductance (limits edge speed, rings)
.param Cj=0.3p               ; laser-diode junction capacitance
.param Rs=5                  ; laser series resistance

* --- DC bias current into the laser anode (node la) ------------------------
Ibias 0 la DC 'Ibias'

* --- fast driver: voltage pulse behind 50 ohm, AC-coupled through the bias-tee block
Vdrv drv 0 PULSE(0 'Vp' '0.15*Trep' 'Tr' 'Tr' 'Wp' 'Trep')
Rd   drv n1 'Rdrv'
Ccpl n1 la 100p              ; DC block (bias-tee RF arm) — bias current is injected at `la`,
*                             so the only DC path is through the laser branch (Vsense -> Dl).

* --- laser-diode load: junction cap + series R + bond-wire L + forward junction
Cjl  la 0 'Cj'
Vsense la lda 0              ; 0 V ammeter: i(Vsense) = injection current into the laser
Rsl  lda lk 'Rs'
Lsl  lk  lk2 'Ls'
Dl   lk2 0 DLASER
.model DLASER D(IS=1e-12 N=2 RS=1 CJO=0.2p)

.tran 1p 2.4n 0 1p
.control
  run
  wrdata alice_driver.data i(Vsense) v(la) v(drv)
.endc
.end
